US06277862B1
(S,Z)-N-(a-ethylbenzyl)-3-[2-(3-carboxypropenoyl)aminoethoxy]-2-phenylquinoline-4-carboxamide
2.0 g (4.7 mmol) of (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide (compound of Description 4) and 0.61 g (6.2 mmol) of maleic anhydride were dissolved in 50 ml of toluene. Some molecular sieves were added and the reaction mixture was refluxed for 5 hours. After cooling, the reaction mixture was evaporated in vacuo to dryness, dissolved in CH2Cl2 and washed with sat. sol. NaCl, 20% citric acid, sat. sol. NaCl. The organic layer was dried over Na2SO4 and evaporated in vacuo to dryness. The crude product was purified by flash column chromatography on 230-400 mesh silica gel, eluting with a mixture of i-Pr2O/EtOAc 70:30 containing 0.5% of 85% formic acid, and then triturated with i-Pr2O to yield 2.0 g of the title compound.

reactant | (S)-N-(α-ethylbenzyl)-3-(2-aminoethoxy)-2-phenylquinoline-4-carboxamide | 4.7 mmol, 2.0 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCN | C27H27N3O2
reactant | maleic anhydride | 6.2 mmol, 0.61 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (S,Z)-N-(a-ethylbenzyl)-3-[2-(3-carboxypropenoyl)aminoethoxy]-2-phenylquinoline-4-carboxamide | 2.0 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCCNC(\C=C/C(=O)O)=O | C31H29N3O5
